US07569600B2
A solution of 5-(1,4-dioxa-spiro[4.5]dec-7-en-8-yl)-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexane-carbonyl)-amino]-thiophene-2-carboxylic acid methyl ester (981 mg, 1.89 mmol) in dry MeOH (30 mL) was deoxygenated by bubbling nitrogen through-solution for 5 min, then 10% palladium on charcoal (202 mg) was added, nitrogen was bubbled for another 5 min, then it was displaced by hydrogen, and the mixture was stirred at room temperature overnight. The mixture was filtered through celite washing with MeOH, and filtrate was concentrated under reduced pressure to give 928 mg (95%) of crude 5-(1,4-dioxa-spiro[4.5]dec-8-yl)-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexane-carbonyl)-amino]-thiophene-2-carboxylic acid methyl ester, which was used in the following step without purification.

reactant | 5-(1,4-dioxa-spiro[4.5]dec-7-en-8-yl)-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexane-carbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | 1.89 mmol, 981 mg | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)O)C1=CCC2(OCCO2)CC1 | C28H39NO6S
solvent | MeOH | 30 mL | CO | CH4O
product | 5-(1,4-dioxa-spiro[4.5]dec-8-yl)-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexane-carbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | 928 mg, 95% | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)O)C1CCC2(OCCO2)CC1 | C28H41NO6S
